US09287504B2
7-(2,2-Dibromo-vinyl)-pentadecane (4.1)
Carbon tetrabromide (218 g, 657 mmol) is dissolved in anhydrous dichloromethane (1600 cm3) and cooled to 0° C. Triphenylphosphine (345 g, 1.32 mol) is added in one portion, the mixture exothermed to 15° C. and is re-cooled to 0° C., whilst stirring for 45 minutes. 2-Hexyldecan-1-al (Price, S. C.; Stuart, A. C.; You, W.; Macromolecules 2010, 43, 797-804) (79.0 g, 329 mmol) is added dropwise over 45 minutes and the mixture is allowed to warm to 23° C. After 2 hours, the reaction mixture is carefully poured into water (2000 cm3), the organic phase is separated, dried over sodium sulfate, filtered and concentrated in vacuo. The crude product is dissolved in dichloromethame (2000 cm3) and passed twice through a plug of silica eluting with petroleum ether (40-60° C.) to yield the title product as a pale yellow oil (117.4 g, Yield: 90%). NMR (1H, 400 MHz, CDCl3): δ 6.15 (d, J=9.6 Hz, 1H); 2.38 (m, 1H); 1.29 (m, 24H); 0.91 (m, 6H).

reactant | Carbon tetrabromide | 657 mmol, 218 g | C(Br)(Br)(Br)Br | CBr4
reactant | Triphenylphosphine | 1.32 mol, 345 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-Hexyldecan-1-al | C(CCCCC)C(C=O)CCCCCCCC | C16H32O
reactant | water | 2000 cm3 | O | H2O
solvent | dichloromethane | 1600 cm3 | ClCCl | CH2Cl2
product | 7-(2,2-Dibromo-vinyl)-pentadecane | 117.4 g, Yield: 90% | BrC(=CC(CCCCCC)CCCCCCCC)Br | C17H32Br2
